US07432258B2
Ethyl 4-{2-[[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl](methyl)amino]-2-oxoethyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
1-(4-biphenylyl)-N-methyl-2-(4-morpholinyl)ethanamine (0.68 g, 2.3 mmol) and {6-[(ethyloxy)carbonyl]-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl} acetic acid (0.8 g, 2.5 mmol) were dissolved in 12 mL of methylene chloride. Triethylamine (1.3 mL, 9.2 mmol) was delivered to the room temperature mixture, and the solution was allowed to stir for several minutes before a separate solution of 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP reagent, 1.11 g, 2.5 mmol) dissolved in 5 mL of methylene chloride was added to the mixture at room temperature. The reaction was maintained at that temperature for 18 hours, before it was determined to be complete by LCMS (two Aquasil C18, 20×1 mm columns were run in sequence, 4 minutes at 0.1 mL/min, 1-99% CH3CN/H2O with 0.018% trifluoroacetic acid, ES) Rt=2.7 min and m/e 558 [M+1]+. Solvent was removed by rotary evaporation and the crude residue was purified by prep HPLC (Waters, 50×100 mm, 84 mL/min, A: acetonitrile B: water (pH=10, NH4OH), A: 10 to 99% over 15 min, UV detection at 214 nm) to give the title compound (0.58 g. 1.0 mmol, 43%) as an off-white amorphous solid. MS (ES) m/e 558 [M+H]+.

reactant | 1-(4-biphenylyl)-N-methyl-2-(4-morpholinyl)ethanamine | 2.3 mmol, 0.68 g | C1(=CC=C(C=C1)C(CN1CCOCC1)NC)C1=CC=CC=C1 | C19H24N2O
reactant | {6-[(ethyloxy)carbonyl]-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl} acetic acid | 2.5 mmol, 0.8 g | C(C)OC(=O)C=1C=CC2=C(N(C(CO2)=O)CC(=O)O)C1 | C13H13NO6
reactant | Triethylamine | 9.2 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | 1H-1,2,3-benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 2.5 mmol, 1.11 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN H2O | CC#N.O
product | Ethyl 4-{2-[[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl](methyl)amino]-2-oxoethyl}-3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 1.0 mmol, 0.58 g, 43% | C1(=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C=C2)C(=O)OCC)=O)=O)C)C2=CC=CC=C2 | C32H35N3O6
